datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8](=[S:9])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[S:3])[H:10])[H:6])([H:4])[H:5].[C:7]([C:8](=[S:9])[H:13])([H:11])[H:12],52.7184
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[H:9][O:20],8.811504
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5]>>[C:0](=[O:1])([H:3])[H:4].[H:2][O:5],0.0
[C:0](#[C:1][S:2])[H:3].[C:4]([S:5][H:9])([H:6])([H:7])[H:8]>>[C:0](#[C:1][S:2][H:9])[H:3].[C:4]([S:5])([H:6])([H:7])[H:8],41.0032
[O:0]([H:1])[H:2].[O:3][O:4][H:5]>>[H:1].[O:0]([H:2])[O:3][O:4][H:5],365.521
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][C:17](=[C:18]([H:20])[H:21])[H:19],70.2912
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2](=[O:4])[H:8])[H:7])([H:5])[H:6].[C:3]([H:9])([H:10])[H:11],79.496
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:14])[H:20])([H:12])[H:13])([H:9])([H:10])[H:11],94.9768
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:11])([H:9])[H:10],12.0918
[C:0](=[O:1])[H:2].[O:3]>>[C-:0]#[O+:1].[H:2][O:3],0.0
[C:0]1([H:6])=[C:1]([H:7])[C:2]2([H:8])[C:3]([H:9])([H:10])[C:4]2=[C:5]1[H:11]>>[C:0]1([H:6])=[C:5]([H:11])[C:4][C:3]([H:9])([H:10])[C:2]([H:8])=[C:1]1[H:7],135.034416
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:4].[S:3]([H:7])[C:8]([H:9])([H:10])[H:11],34.7272
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:23]([C:24](=[C:25]([H:29])[H:30])[H:28])([H:26])[H:27])[H:13])([H:11])[H:12],47.2792
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8](=[O:9])[H:10]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][C:8](=[O:9])[H:10],77.11112
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13]=[C:14]([S:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:17])([H:4])([H:5])[H:6].[S:13]=[C:14]([S:15])[H:16],-25.104
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]([H:12])[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[S:11][H:13])[H:6])([H:4])[H:5].[H:12],134.306
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22])[H:10],47.8231
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])[H:5].[O:11][O:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:7])([H:4])[H:5].[H:6][O:11][O:12],0.0
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:11],14.1419
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]1([C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:24])[H:14])([H:12])[H:13],55.8146
